US07723368B2
In a 100 mL round-bottomed flask was placed ((3-ethylphenyl)ethynyl)trimethylsilane (3.17 g, 15.66 mmol) and MeOH (31.3 ml) was added to give a yellow solution. Potassium carbonate (21.65 g, 157 mmol) was added and reaction stirred at 25° C. for 1 h. The reaction was partitioned between water (200 mL) and hexanes (200 mL). The organic was washed with water (100 mL) and brine (100 mL). The organic was dried over Na2SO4. The solvent was removed providing 1-ethyl-3-ethynylbenzene (2.24 g, 17.21 mmol, 110% yield) as a dark brown oil that was used as is without further purification.

reactant | ((3-ethylphenyl)ethynyl)trimethylsilane | 15.66 mmol, 3.17 g | C(C)C=1C=C(C=CC1)C#C[Si](C)(C)C | C13H18Si
reactant | Potassium carbonate | 157 mmol, 21.65 g | C([O-])([O-])=O.[K+].[K+]
solvent | MeOH | 31.3 ml | CO | CH4O
product | 1-ethyl-3-ethynylbenzene | 17.21 mmol, 2.24 g, 110% yield | C(C)C1=CC(=CC=C1)C#C | C10H10
